US07700641B2
C. Synthesis of 3,3-dimethyl-2,3-dihydro-1-benzofuran-6-ol
To a solution of 6-(benzyloxy)-3,3-dimethyl-2,3-dihydrobenzofuran (3.48 g, 13.7 mmol) in methanol (200 mL) was added Pd/C (1.45 g) and the mixture was hydrogenated under 40 psi of hydrogen overnight. The reaction mixture was filtered through celite, washed with methanol. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (ethyl acetate/hexane, 1/7) to give the title compound (1.66 g, 74%): MS (ES+) m/z 165.4 (M+1).

reactant | 6-(benzyloxy)-3,3-dimethyl-2,3-dihydrobenzofuran | 13.7 mmol, 3.48 g | C(C1=CC=CC=C1)OC1=CC2=C(C(CO2)(C)C)C=C1 | C17H18O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 mL | CO | CH4O
catalyst | Pd/C | 1.45 g | [Pd] | Pd
product | 3,3-dimethyl-2,3-dihydro-1-benzofuran-6-ol | 1.66 g, 74% | CC1(COC2=C1C=CC(=C2)O)C | C10H12O2
